US06794395B1
(1) 6-(2-Tolyl)-2-indolinone
Prepared from 6-bromo-2-indolinone and 2-tolylboric acid

reactant | 6-bromo-2-indolinone | BrC1=CC=C2CC(NC2=C1)=O | C8H6BrNO
reactant | 2-tolylboric acid | C1(=C(C=CC=C1)OB(O)O)C | C7H9BO3
product | 6-(2-Tolyl)-2-indolinone | C1(=C(C=CC=C1)C1=CC=C2CC(NC2=C1)=O)C | C15H13NO
